US08034932B2
A mixture of N-(5-bromo-4-(4-fluorophenyl)-6-isopropylpyrimidin-2-yl)-N-methylmethanesulfonamide (1.00 g, 2.50 mmol), bis-tri-tert-butylphosphine palladium (0) (131 mg, 0.250 mmol), tert-butyl 2-((4R,6S)-2,2-dimethyl-6-vinyl-1,3-dioxan-4-yl)acetate (640 mg, 2.50 mmol), water (5 mL), N,N-dicyclohexylmethylamine (0.530 mL, 2.50 mmol), and N,N-dimethylformamide (5 mL) was heated and stirred at 50° C. under nitrogen for four days. The mixture was then diluted with ethyl acetate (11 mL), water (10 mL), and acetic acid (0.2 mL). The organic phase was separated and the aqueous phase was extracted with ethyl acetate (5 mL). The combined organic phases were washed with water (10 mL), then brine (10 mL), and concentrated in vacuo to give a yellow oil containing some solids. This material was adsorbed onto silica gel through dissolution in ethyl acetate, then purified by flash chromatography (5% ethyl acetate in isohexane gradually increasing to 20% ethyl acetate in hexane, silica column 25 mm in diameter and 250 mm in height) to yield tert-butyl 2-((4R,6S)-6-((E)-2-(4-(4-fluorophenyl)-6-isopropyl-2-(N-methylmethanesulfonamido)pyrimidin-5-yl)vinyl)-2,2-dimethyl-1,3-dioxan-4-yl)acetate of the formula

reactant | N-(5-bromo-4-(4-fluorophenyl)-6-isopropylpyrimidin-2-yl)-N-methylmethanesulfonamide | 2.50 mmol, 1.00 g | BrC=1C(=NC(=NC1C(C)C)N(S(=O)(=O)C)C)C1=CC=C(C=C1)F | C15H17BrFN3O2S
reactant | tert-butyl 2-((4R,6S)-2,2-dimethyl-6-vinyl-1,3-dioxan-4-yl)acetate | 2.50 mmol, 640 mg | CC1(O[C@@H](C[C@@H](O1)CC(=O)OC(C)(C)C)C=C)C | C14H24O4
reactant | N,N-dicyclohexylmethylamine | 2.50 mmol, 0.530 mL | C1(CCCCC1)CNCC1CCCCC1 | C14H27N
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 11 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
solvent | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
product | tert-butyl 2-((4R,6S)-6-((E)-2-(4-(4-fluorophenyl)-6-isopropyl-2-(N-methylmethanesulfonamido)pyrimidin-5-yl)vinyl)-2,2-dimethyl-1,3-dioxan-4-yl)acetate | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)OC(C)(C)C)C(C)C)N(S(=O)(=O)C)C | C29H40FN3O6S
